US05580986
1. 1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarbonitrile
A mixture of 0.79 g (2.91 mmol) 1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarboxamide, 0.46 g (5.85 mmol) pyridine and 20 ml 1,4-dioxane was cooled to 5° C. and 0.74 g (3.51 mmol) trifluoroacetic anhydride was added dropwise. The mixture was stirred for 3 hours at room temperature. It was then added to 100 ml water and extracted 4 times with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated.

reactant | 1-(5-difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarboxamide | 2.91 mmol, 0.79 g | FC(OC1=CC(=NN1C)N1N=CC(=C1C)C(=O)N)F | C10H11F2N5O2
reactant | pyridine | 5.85 mmol, 0.46 g | N1=CC=CC=C1 | C5H5N
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | trifluoroacetic anhydride | 3.51 mmol, 0.74 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | 100 ml | O | H2O
product | 1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarbonitrile | FC(OC1=CC(=NN1C)N1N=CC(=C1C)C#N)F | C10H9F2N5O
